US09163012B2
5-methoxy-2-(pyrrolidin-3-yl)pyrimidine
To a solution of tert-butyl 3-(5-methoxypyrimidin-2-yl)pyrrolidine-1-carboxylate (13 mg, 0.047 mmol) in dry CH2Cl2 (0.5 mL) was added TFA (20% in CH2Cl2, 2 mL) at 0° C. The formed solution was stirred at rt for 2 h. The reaction mixture was concentrated in vacuo to give the crude product (8 mg), which was used for next step without purification.

reactant | tert-butyl 3-(5-methoxypyrimidin-2-yl)pyrrolidine-1-carboxylate | 0.047 mmol, 13 mg | COC=1C=NC(=NC1)C1CN(CC1)C(=O)OC(C)(C)C | C14H21N3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 5-methoxy-2-(pyrrolidin-3-yl)pyrimidine | 8 mg | COC=1C=NC(=NC1)C1CNCC1 | C9H13N3O
